US06310070B1
An amidation reaction and post-treatment were carried out under the same conditions as in Example 1, using 1.54 g (5.65 mmol) of 4-amino-1-(4-t-butylbenzyl)-5-imidazole carboxamide which was prepared in the same manner as in Example 57 and 3-fluorobenzoyl chloride instead of benzoyl chloride to obtain 1.57 g of 1-(4-t-butylbenzyl)-4-(3-fluorobenzoylamino)-5-imidazolecarboxamide (yield 70%).

reactant | 4-amino-1-(4-t-butylbenzyl)-5-imidazole carboxamide | 5.65 mmol, 1.54 g | NC=1N=CN(C1C(=O)N)CC1=CC=C(C=C1)C(C)(C)C | C15H20N4O
reactant | 3-fluorobenzoyl chloride | FC=1C=C(C(=O)Cl)C=CC1 | C7H4ClFO
product | 1-(4-t-butylbenzyl)-4-(3-fluorobenzoylamino)-5-imidazolecarboxamide | 1.57 g, yield 70% | C(C)(C)(C)C1=CC=C(CN2C=NC(=C2C(=O)N)NC(C2=CC(=CC=C2)F)=O)C=C1 | C22H23FN4O2
